US04939173
6-(4-Benzylphenoxy)hexan-1-ol
A mixture of 40.0 g (0.217 mole) of p-benzylphenol (Eastman) and 29.7 g (0.217 mole) of 6-chlorohexan-1-ol (MCB) in 500 ml of dry dimethylformamide is stirred and heated to about 100° C., after which 33.1 g (0.24 mole) of potassium carbonate is added, and the mixture refluxed for 2.5 hours. The mixture is cooled, poured into ice-water, and 50 ml of 10% NaOH is added. The mixture is extracted 10 with ether, the ether extracts washed with water and brine, dried (Mg2SO4), and the ether evaporated. The resultant oil is redistilled to give the product as a water-white oil fraction distilling at 140-175° C., 0.05 mmHg.

reactant | p-benzylphenol | 0.217 mole, 40.0 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)O | C13H12O
reactant | 6-chlorohexan-1-ol | 0.217 mole, 29.7 g | ClCCCCCCO | C6H13ClO
reactant | potassium carbonate | 0.24 mole, 33.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 50 ml | [OH-].[Na+]
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 6-(4-Benzylphenoxy)hexan-1-ol | C(C1=CC=CC=C1)C1=CC=C(OCCCCCCO)C=C1 | C19H24O2
